US06627651B1
1,4-Dibromobenzene (25 g) was dissolved in concentrated sulfuric acid (30 ml). Thereto was added dropwise under ice cooling a mixed solution of concentrated sulfuric acid (30 ml)/nitric acid (8.9 ml). After 14 hours at room temperature, the reaction mixture was poured into ice water, was mixed with potassium carbonate and was extracted with ethyl acetate. The extract was washed successively with an aqueous solution of potassium bicarbonate and an aqueous saturated solution of sodium chloride, was dried (anhydrous magnesium sulfate) and was then concentrated. The residue was subjected to purification using silica gel column chromatography (hexane) to obtain 1,4-dibromo-2-nitrobenzene (13.3 g) as light yellow crystals.

reactant | 1,4-Dibromobenzene | 25 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | nitric acid | 8.9 ml | [N+](=O)(O)[O-] | HNO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
product | 1,4-dibromo-2-nitrobenzene | 13.3 g | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
